US05068371
2,4-Difluorobenzylamine
13.9 g (0.10 mol) of 2,4-difluorobenzonitrile are dissolved in 100 ml of ethanol and hydrogenated in a pressurized reactor at 75°-80° C. using hydrogen gas after 1.4 g of Raney nickel in ethanol has been added and after 17 g (1.0 mol) of ammonia gas have been injected. The take-up of hydrogen is complete after about 2 hours. The reaction mixture is cooled, decompressed and filtered and then freed from solvent in a vacuum rotary evaporator. The resultant oil is subjected to fractional distillation at 70°-75° C. in vacuo (19 mbar). 9.5 g (66% of theory) of a colourless liquid are obtained.

reactant | 2,4-difluorobenzonitrile | 0.10 mol, 13.9 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | hydrogen | [H][H] | H2
reactant | ammonia | 1.0 mol, 17 g | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney nickel | 1.4 g | [Ni] | Ni
product | 2,4-Difluorobenzylamine | FC1=C(CN)C=CC(=C1)F | C7H7F2N
